US07491732B2
4-(3-Fluoropropyl)aniline and 2,6-dichloro-5-fluoropyrimidine (1.5 g) were dissolved in methanol (5 mL) and water (1 mL). The reaction solution was stirred at rt for 3 d. The reaction solution was diluted with water (100 mL) and extracted with ethyl acetate (2×100 mL). The organic layers were evaporated and purified by flash column chromatography (EtOAc/hexanes=1/4, 1/2) to give 2-chloro-5-fluoro-N4-[4-(3-fluoropropyl)phenyl]-4-pyrimidineamine.

reactant | 4-(3-Fluoropropyl)aniline | FCCCC1=CC=C(N)C=C1 | C9H12FN
reactant | 2,6-dichloro-5-fluoropyrimidine | 1.5 g | ClC1=NC(=C(C=N1)F)Cl | C4HCl2FN2
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-chloro-5-fluoro-N4-[4-(3-fluoropropyl)phenyl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)CCCF)F | C13H12ClF2N3
